US07223769B2
In 6 ml of tetrahydrofuran was suspended 0.15 g of sodium hydride (60% in oil), to which 0.4 ml of a solution containing 0.45 g of 3,3-dichloro-2-butanol was added dropwise at 0° C., followed by stirring for 10 minutes. To this was added dropwise 0.4 ml of a solution containing 0.47 g of 4,6-dichloropyrimidine in tetrahydrofuran, followed by stirring at the same temperature for 4 hours. To this was added dropwise 0.4 ml of a solution containing 0.17 g of 2-butyn-1-ol at room temperature and further added 0.19 g of sodium hydride (60% in oil), followed by stirring for 2 hours. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution, which was extracted three times with t-butyl methyl ether. The combined organic layers were washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.39 g of 4-(2-butynyloxy)-6-(2,2-dichloro-1-methylpropyloxy)pyrimidine (the present compound (36)).

reactant | sodium hydride | 0.15 g | [H-].[Na+]
reactant | 3,3-dichloro-2-butanol | 0.45 g | ClC(C(C)O)(C)Cl | C4H8Cl2O
reactant | 4,6-dichloropyrimidine | 0.47 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 2-butyn-1-ol | 0.17 g | C(C#CC)O | C4H6O
reactant | sodium hydride | 0.19 g | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 4-(2-butynyloxy)-6-(2,2-dichloro-1-methylpropyloxy)pyrimidine | 0.39 g | C(C#CC)OC1=NC=NC(=C1)OC(C(C)(Cl)Cl)C | C12H14Cl2N2O2
